* Resistive Load Amplifier
.subckt RESISTIVE_LOAD_AMP VIN VOUT VDD GND
        * Input transistor (NMOS common-source)
        XM1 VOUT VIN GND GND sky130_fd_pr__nfet_01v8 l={L_input} w={W_input}
        
        * Load resistor
        RL VDD VOUT {R_load}
        
        * Load capacitor
        CL VOUT GND 1e-14
.ends RESISTIVE_LOAD_AMP
