.subckt SMC GNDA VDDA VINN VINP VOUT
* PMOS BIAS CURRENT MIRROR
xm0 VBIAS VBIAS VDDA VDDA sky130_fd_pr__pfet_01v8 l={L} w={W_BIAS_P} m=8
xm1 VB4 VBIAS VDDA VDDA sky130_fd_pr__pfet_01v8 l={L} w={W_BIAS_P} m=8
xm2 DM_1 VBIAS VDDA VDDA sky130_fd_pr__pfet_01v8 l={L} w={W_BIAS_P} m=8
xm3 VB3 VBIAS VDDA VDDA sky130_fd_pr__pfet_01v8 l={L} w={W_BIAS_P} m=8
xm4 TAIL VBIAS VDDA VDDA sky130_fd_pr__pfet_01v8 l={L} w={W_BIAS_P} m=32
xm5 VOUTN VOUTN VDDA VDDA sky130_fd_pr__pfet_01v8 l={L} w={W_BIAS_P} m=8
xm6 V1OUT VOUTN VDDA VDDA sky130_fd_pr__pfet_01v8 l={L} w={W_BIAS_P} m=8
xm7 V2OUT VBIAS VDDA VDDA sky130_fd_pr__pfet_01v8 l={L} w={W_BIAS_P} m=8

* FIRST STAGE - PMOS Differential Pair with NMOS Folded Cascode
xm8 DM_2 VINN TAIL TAIL sky130_fd_pr__pfet_01v8 l={L} w={W_GM1} m=8
xm9 DM_P VINP TAIL TAIL sky130_fd_pr__pfet_01v8 l={L} w={W_GM1} m=8
xm19 DM_2 VB4 GNDA GNDA sky130_fd_pr__nfet_01v8 l={L} w={W_BIAS_N} m=64
xm20 DM_P VB4 GNDA GNDA sky130_fd_pr__nfet_01v8 l={L} w={W_BIAS_N} m=64
xm15 VOUTN VB3 DM_2 GNDA sky130_fd_pr__nfet_01v8 l={L} w={W_BIAS_N} m=32
xm16 V1OUT VB3 DM_P GNDA sky130_fd_pr__nfet_01v8 l={L} w={W_BIAS_N} m=32

* NMOS BIAS GENERATION
xm14 VB3 VB3 GNDA GNDA sky130_fd_pr__nfet_01v8 l={L} w={W_BIAS_N} m=8
xm17 NET54 VB4 GNDA GNDA sky130_fd_pr__nfet_01v8 l={L} w={W_BIAS_N} m=32
xm12 VB4 VB3 NET54 GNDA sky130_fd_pr__nfet_01v8 l={L} w={W_BIAS_N} m=32
xm18 NET56 VB4 GNDA GNDA sky130_fd_pr__nfet_01v8 l={L} w={W_BIAS_N} m=32
xm13 DM_1 VB3 NET56 GNDA sky130_fd_pr__nfet_01v8 l={L} w={W_BIAS_N} m=32

* SECOND STAGE
xm10 V2IN V1OUT VDDA VDDA sky130_fd_pr__pfet_01v8 l={L} w={W_GM2} m=8
xm21 V2IN V2IN GNDA GNDA sky130_fd_pr__nfet_01v8 l={L} w={W_LOAD2} m=8
xm22 V2OUT V2IN GNDA GNDA sky130_fd_pr__nfet_01v8 l={L} w={W_LOAD2} m=8

* OUTPUT STAGE
xm23 VOUT V2OUT GNDA GNDA sky130_fd_pr__nfet_01v8 l={L} w={W_GM3} m=16
xm11 VOUT V1OUT VDDA VDDA sky130_fd_pr__pfet_01v8 l={L} w={W_GMF2} m=8

* COMPENSATION
C0 V1OUT VOUT 2e-12

* BIAS CURRENT SOURCE
I0 VBIAS GNDA 20e-6

.ends SMC
