* Switched Capacitor Integrator Stage
    * Transmission gate switch
    .subckt SWMOD in out ctrl
    XN in ctrl out GND sky130_fd_pr__nfet_01v8 l={L_sw} w={W_sw} m=2
    XP in ctrl out VDD sky130_fd_pr__pfet_01v8 l={L_sw} w={W_sw} m=2
    .ends

.subckt SWITCHED_CAPACITOR VIN VSAMP VIN_N VIN_P VOUT CLK1 CLK2 VDD GND
    * Two-stage OTA
    XM1 VD1 VIN_P VTAIL GND sky130_fd_pr__nfet_01v8 l={L_op} w={W_op1} m=4
    XM2 VD2 VIN_N VTAIL GND sky130_fd_pr__nfet_01v8 l={L_op} w={W_op1} m=4
    XMTAIL VTAIL VBIAS GND GND sky130_fd_pr__nfet_01v8 l={L_op_base*2} w={W_op1} m=4
    XM3 VD1 VD1 VDD VDD sky130_fd_pr__pfet_01v8 l={L_op} w={W_op2} m=4
    XM4 VD2 VD1 VDD VDD sky130_fd_pr__pfet_01v8 l={L_op} w={W_op2} m=4
    XM5 VOUT VD2 VDD VDD sky130_fd_pr__pfet_01v8 l={L_op} w={W_op2_base*4} m=4
    XM6 VOUT VBIAS GND GND sky130_fd_pr__nfet_01v8 l={L_op_base*2} w={W_op1_base*2} m=2.0
    CC VD2 VOUT 2p
    
    * Bias
    XMBIAS VBIAS VBIAS GND GND sky130_fd_pr__nfet_01v8 l={L_op_base*4} w={W_op1} m=1
    RBIAS VDD VBIAS 18000.0
    
    * Switched capacitor network
    XSW1 VIN VSAMP CLK1 SWMOD
    XSW2 VSAMP VIN_N CLK2 SWMOD
    XSW3 VIN_P VOUT CLK2 SWMOD
    
    CSAMP VSAMP GND 2e-12
    CHOLD VIN_N VOUT 2e-12
    CLOAD VOUT GND 2e-12
.ends SWITCHED_CAPACITOR
