* Switched Capacitor Integrator Stage
    .lib ../../device_models/sky130_fd_pr/combined_models/sky130.lib.spice tt
    .global VDD GND
    .temp 27.0

* Design variables injected by my_testbench_template/src/ngspice.py
.include 'design_var.inc'
.param
+L_op={L_op_base*1}
+L_sw={L_sw_base*1}
+W_op1={W_op1_base*1}
+W_op2={W_op2_base*1}
+W_sw={W_sw_base*1}

*********** Unit Under Test ********************
.include "switched_capacitor.cir"
*********** Test-bench *************************
XSC VIN VSAMP VIN_N VIN_P VOUT CLK1 CLK2 VDD GND SWITCHED_CAPACITOR
    VIN VIN GND DC 1.0 AC 0.25
    VREF VIN_P GND DC 0.9
    VDD VDD GND DC 1.8
    
    VCLK1 CLK1 GND PULSE(0 1.8 0 1e-08 1e-08 4.8e-07 1e-06)
    VCLK2 CLK2 GND PULSE(0 1.8 5e-07 1e-08 1e-08 4.8e-07 1e-06)

    .ic v(VOUT)=0.9 v(VSAMP)=0 v(VIN_N)=0.9
    
    .control
    set noaskquit
    set wr_singlescale
    set wr_vecnames
    
    op
    let i_supply_op = abs(i(VDD))
    echo "I_SUPPLY:" > sc_results.txt
    echo "$&i_supply_op" >> sc_results.txt
    
    let vout_dc = v(VOUT)
    echo "VOUT_DC:" >> sc_results.txt
    echo "$&vout_dc" >> sc_results.txt
    
    let swing_top = 1.8 - vout_dc
    let swing_bot = vout_dc
    let output_swing = swing_top
    if swing_bot < swing_top
      let output_swing = swing_bot
    end
    echo "OUTPUT_SWING:" >> sc_results.txt
    echo "$&output_swing" >> sc_results.txt


    * my_testbench_template parse-friendly OP measures
    print i_supply_op vout_dc output_swing

    tran 1e-08 4.9999999999999996e-05 9.999999999999999e-06
    
    let vout_final = v(VOUT)[length(v(VOUT))-1]
    echo "VOUT_FINAL:" >> sc_results.txt
    echo "$&vout_final" >> sc_results.txt
    
    let gain_linear = (vout_final - 0.9) / (1.0 - 0.9)
    let gain_db = 20 * log10(abs(gain_linear))
    echo "GAIN_DB:" >> sc_results.txt
    echo "$&gain_db" >> sc_results.txt
    
    let idx_start = 20 * 1e-06 / 1e-08
    let vout_start = v(VOUT)[idx_start]
    let delta_target = 0.01 * abs(vout_final - vout_start)
    let idx = idx_start
    let idx_settled = idx_start
    while idx < length(v(VOUT)) - 1
      if abs(v(VOUT)[idx] - vout_final) < delta_target
        let idx_settled = idx
        break
      end
      let idx = idx + 1
    end
    let settling_time_ns = (time[idx_settled] - time[idx_start]) * 1e9
    echo "SETTLING_TIME_NS:" >> sc_results.txt
    echo "$&settling_time_ns" >> sc_results.txt
    
    let idx_before = floor((20 * 1e-06 + 4.8e-07) / 1e-08)
    let idx_after = idx_before + 10
    let charge_inj_mv = abs(v(VSAMP)[idx_before] - v(VSAMP)[idx_after]) * 1000
    echo "CHARGE_INJ_MV:" >> sc_results.txt
    echo "$&charge_inj_mv" >> sc_results.txt
    
    let i_supply_avg = mean(abs(i(VDD)))
    let power_uw = i_supply_avg * 1.8 * 1e6
    echo "POWER_UW:" >> sc_results.txt
    echo "$&power_uw" >> sc_results.txt

    * Print transient-domain metrics before FFT switches plots.
    print vout_final gain_db settling_time_ns charge_inj_mv power_uw
    
    set specwindow=hann
    linearize v(VOUT)
    let vout_ac = v(VOUT) - mean(v(VOUT))
    fft vout_ac
    let mag_fft = mag(vout_ac)
    let fund_mag = mag_fft[1]
    let harm2_mag = mag_fft[2]
    let harm3_mag = mag_fft[3]
    let harm_sum_sq = harm2_mag*harm2_mag + harm3_mag*harm3_mag
    let thd = sqrt(harm_sum_sq) / fund_mag
    let thd_db = 20 * log10(thd)
    echo "THD_DB:" >> sc_results.txt
    echo "$&thd_db" >> sc_results.txt

    print thd_db

    quit
    .endc
    .end
    
