* Telescopic OTA Simulation
  .lib ../../device_models/sky130_fd_pr/combined_models/sky130.lib.spice tt

* Design variables injected by my_testbench_template/src/ngspice.py
.include 'design_var.inc'
.param
+W_casc={W_casc_base*2}
+W_diff={W_diff_base*4}
+W_load={W_load_base*2}
+W_tail={W_tail_base*2}


  

*********** Unit Under Test ********************
.include "telescopic_ota.cir"
*********** Test-bench *************************

  
  * Power supply
  VDD VDD 0 DC 1.8
  
  * Bias Generation
  IBIAS_N VDD VBIASN DC 10e-6
  XMN_BIAS VBIASN VBIASN 0 0 sky130_fd_pr__nfet_01v8 w={W_tail} l=0.15
  
  IBIAS_P VBIASP2 0 DC 10e-6
  XMP_BIAS VBIASP2 VBIASP2 VDD VDD sky130_fd_pr__pfet_01v8 w={W_load} l=0.15
  
  VBIASP1 VBIASP1 0 DC=1.15
  
  * NEW: NMOS cascode bias (a bit higher than VBIASN)
  IBIAS_NC VDD VBIASNC DC 10e-6
  XMN_BIASC VBIASNC VBIASNC 0 0 sky130_fd_pr__nfet_01v8 w={W_casc} l=0.15
  
  * Differential inputs
  VINP VINP 0 DC 0.7 AC 0.5
  VINN VINN 0 DC 0.7 AC -0.5
  
  * OTA instance
  XOTA VBIASN VBIASNC VBIASP1 VBIASP2 VINN VINP VOUTN VOUTP VDD 0 TELESCOPIC_OTA
  
  * Load capacitors
  CLOADP VOUTP 0 1e-12
  CLOADN VOUTN 0 1e-12
  
  .op
  
  .control
  op
  
  * Power
  let vdd_current = abs(i(VDD))
  let power_dc = vdd_current * 1.8
  echo "=== POWER ==="
  print vdd_current power_dc
  
  * AC analysis
  ac dec 100 1 10g
  
  let vout_diff = v(VOUTP) - v(VOUTN)
  let gain_db = db(vout_diff)
  
  let dc_gain_db = gain_db[0]
  
  echo "=== DC GAIN ==="
  print dc_gain_db
  
  * UGBW
  meas ac ugbw WHEN gain_db=0 CROSS=1

  * my_testbench_template parse-friendly post-processed measures
  let power_dc = op1.power_dc * 1e6
  let ugbw = ugbw * 1e-6
  let fom = dc_gain_db * ugbw / power_dc
  print power_dc ugbw fom
  
  quit
  .endc
  .end
