.subckt TELESCOPIC_OTA VBIASN VBIASNC VBIASP1 VBIASP2 VINN VINP VOUTN VOUTP VDD 0
* Tail current sources
xm1 ID   VBIASN  0   0  sky130_fd_pr__nfet_01v8 w={W_tail} l=0.15
xm2 NET10 VBIASN 0   0  sky130_fd_pr__nfet_01v8 w={W_tail} l=0.15

* Differential pair
xm3 NET8   VINP NET10 0 sky130_fd_pr__nfet_01v8 w={W_diff} l=0.15
xm4 NET014 VINN NET10 0 sky130_fd_pr__nfet_01v8 w={W_diff} l=0.15

* NMOS cascode  (use VBIASNC here)
xm5 VOUTN VBIASNC NET8   0 sky130_fd_pr__nfet_01v8 w={W_casc} l=0.15 
xm6 VOUTP VBIASNC NET014 0 sky130_fd_pr__nfet_01v8 w={W_casc} l=0.15

* PMOS cascode
xm7 VOUTN VBIASP1 NET06 VDD sky130_fd_pr__pfet_01v8 w={W_casc} l=0.15
xm8 VOUTP VBIASP1 NET012 VDD sky130_fd_pr__pfet_01v8 w={W_casc} l=0.15

* PMOS current source
xm9  NET06 VBIASP2 VDD VDD sky130_fd_pr__pfet_01v8 w={W_load} l=0.15
xm10 NET012 VBIASP2 VDD VDD sky130_fd_pr__pfet_01v8 w={W_load} l=0.15
.ends TELESCOPIC_OTA
