* Voltage-Controlled Oscillator - Multi-point characterization
.lib ../../device_models/sky130_fd_pr/combined_models/sky130.lib.spice tt
.global VDD GND
.temp 27

* Design variables injected by my_testbench_template/src/ngspice.py
.include 'design_var.inc'
.param
+L_inv_n={L_inv_n_base*1}
+L_inv_p={L_inv_p_base*1}
+W_inv_n={W_inv_n_base*1}
+W_inv_p={W_inv_p_base*1}

*********** Unit Under Test ********************
.include "voltage_controlled_osc.cir"
*********** Test-bench *************************
XVCO N0 N1 N2 N3 N4 VDD GND VOLTAGE_CONTROLLED_OSC
*** Load capacitors
C0 N0 GND 3e-14
C1 N1 GND 3e-14
C2 N2 GND 3e-14
C3 N3 GND 3e-14
C4 N4 GND 3e-14

*** Power supply
VSUP VDD GND PWL(0 0 10n 1.8)

*** Symmetry breaking resistor
RBREAK N0 GND 10G


.control
* VCO characterization: sweep v_ctrl and measure frequency
let v_ctrl_points = 10
let v_ctrl_min = 0.0
let v_ctrl_max = 1.8
let v_ctrl_step = (v_ctrl_max - v_ctrl_min) / (v_ctrl_points - 1)

* Output file for results
set wr_singlescale
set wr_vecnames

* Loop over v_ctrl values
let i = 0
let freq_values = vector(10)
let power_values = vector(10)
while i < v_ctrl_points
  * Calculate current v_ctrl
  let v_ctrl_current = v_ctrl_min + i * v_ctrl_step
  
  * Update capacitors based on v_ctrl
  let cap_base = 5e-15
  let cap_variable = (v_ctrl_current / 1.8) * 50e-15
  let cap_total_val = cap_base + cap_variable
  
  alter C0 = cap_total_val
  alter C1 = cap_total_val
  alter C2 = cap_total_val
  alter C3 = cap_total_val
  alter C4 = cap_total_val
  
  * Run transient simulation
  tran 1n 20u

  meas tran t_first WHEN v(N3)=0.9 RISE=1 TD=10u
  meas tran t_second WHEN v(N3)=0.9 RISE=2 TD=10u
  meas tran i_avg AVG i(VSUP) from=15u to=20u
  let period = t_second - t_first
  let freq_values[i] = 1 / period
  let power_values[i] = abs(i_avg) * 1.8 * 1e6
  
  * Save results to files with index
  wrdata vco_tran.txt time v(N3)
  wrdata vco_current.txt time i(VSUP)
  
  * Increment counter
  let i = i + 1
end


  * my_testbench_template parse-friendly measures
  let f_max = vecmax(freq_values)
  let f_min = vecmin(freq_values)
  let f_center = (f_max + f_min) / 2
  let tuning_range_percent = abs((f_max - f_min) / f_center * 100)
  let freq_at_max = freq_values[v_ctrl_points - 1] * 1e-6
  let power_uw = power_values[v_ctrl_points / 2]
  let vco_gain_sum = 0
  let i = 0
  while i < v_ctrl_points - 1
    let vco_gain_sum = vco_gain_sum + abs((freq_values[i+1] - freq_values[i]) / v_ctrl_step / 1e6)
    let i = i + 1
  end
  let vco_gain_mhz_per_v = vco_gain_sum / (v_ctrl_points - 1)
  let fom = (tuning_range_percent / 100) * (freq_at_max / 1e3) * (1000 / power_uw) * (vco_gain_mhz_per_v / 1000) * 10
  print tuning_range_percent freq_at_max power_uw vco_gain_mhz_per_v fom

quit
.endc

.end
